US04701459
Sodium (0.6 g, 0.026 g atom) was dissolved in absolute ethanol (200 mL) and diethyl 2,4-dioxoimidazolidine-5-phosphonate (6.0 g, 25 mmol) added. After 10 minutes, 2-nitro-5-(1-piperidinyl)benzaldehyde (5.0 g, 21 mmol) was added in one portion and the mixture stirred at room temperature for 5 hours. The yellow precipitate was filtered off, washed with water and dried in air to give 5-[[2-nitro-5-(1-piperidinyl)phenyl]methylene]-2,4-imidazolidinedione (6.17 g, 92%), m.p. 273°-276° C. A sample dried in vacuo in 110° C. had m.p. 280° C. (dec.).

reactant | Sodium | 0.6 g | [Na] | Na
reactant | diethyl 2,4-dioxoimidazolidine-5-phosphonate | 25 mmol, 6.0 g | O=C1NC(C(N1)=O)P(OCC)(=O)OCC | C7H13N2O5P
reactant | 2-nitro-5-(1-piperidinyl)benzaldehyde | 21 mmol, 5.0 g | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)N1CCCCC1 | C12H14N2O3
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-[[2-nitro-5-(1-piperidinyl)phenyl]methylene]-2,4-imidazolidinedione | 6.17 g, 92% | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)C=C1C(NC(N1)=O)=O | C15H16N4O4
